* NGSPICE file created from r2r_dac.ext - technology: sky130A

.subckt sky130_fd_pr__nfet_g5v0d10v5_UNEQ2N a_50_n100# a_n242_n322# a_n108_n100# a_n50_n188#
X0 a_50_n100# a_n50_n188# a_n108_n100# a_n242_n322# sky130_fd_pr__nfet_g5v0d10v5 ad=0.29 pd=2.58 as=0.29 ps=2.58 w=1 l=0.5
.ends

.subckt sky130_fd_pr__pfet_g5v0d10v5_KLD8Y6 a_n50_n297# a_50_n200# w_n308_n497# a_n108_n200#
X0 a_50_n200# a_n50_n297# a_n108_n200# w_n308_n497# sky130_fd_pr__pfet_g5v0d10v5 ad=0.58 pd=4.58 as=0.58 ps=4.58 w=2 l=0.5
.ends

.subckt sky130_fd_pr__pfet_g5v0d10v5_KL3SY6 a_n50_n497# a_50_n400# w_n308_n697# a_n108_n400#
X0 a_50_n400# a_n50_n497# a_n108_n400# w_n308_n697# sky130_fd_pr__pfet_g5v0d10v5 ad=1.16 pd=8.58 as=1.16 ps=8.58 w=4 l=0.5
.ends

.subckt sky130_fd_pr__res_xhigh_po_0p35_K8ELGS a_n35_784# a_n165_n1346# a_n35_n1216#
X0 a_n35_784# a_n35_n1216# a_n165_n1346# sky130_fd_pr__res_xhigh_po_0p35 l=7.84
.ends

.subckt sky130_fd_pr__res_xhigh_po_0p35_N7NBSG a_n35_1584# a_n165_n2146# a_n35_n2016#
X0 a_n35_1584# a_n35_n2016# a_n165_n2146# sky130_fd_pr__res_xhigh_po_0p35 l=15.8
.ends

.subckt sky130_fd_pr__nfet_g5v0d10v5_WSEQJ8 a_50_n200# a_n242_n422# a_n108_n200# a_n50_n288#
X0 a_50_n200# a_n50_n288# a_n108_n200# a_n242_n422# sky130_fd_pr__nfet_g5v0d10v5 ad=0.58 pd=4.58 as=0.58 ps=4.58 w=2 l=0.5
.ends

.subckt r2r_dac dac0 dac1 dac2 dac3 dac4 dac5 dac6 dac7 dac8 dac9 dac10 dac11 vout
+ vref avss avdd
Xinvn10 m1_29981_13017# avss avss dac10 sky130_fd_pr__nfet_g5v0d10v5_UNEQ2N
Xinvn11 m1_32581_13017# avss avss dac11 sky130_fd_pr__nfet_g5v0d10v5_UNEQ2N
Xinvp0 dac0 m1_3981_13017# avdd avdd sky130_fd_pr__pfet_g5v0d10v5_KLD8Y6
Xinvp1 dac1 m1_6581_13017# avdd avdd sky130_fd_pr__pfet_g5v0d10v5_KLD8Y6
Xinvn0 m1_3981_13017# avss avss dac0 sky130_fd_pr__nfet_g5v0d10v5_UNEQ2N
Xinvp2 dac2 m1_9181_13017# avdd avdd sky130_fd_pr__pfet_g5v0d10v5_KLD8Y6
Xpl10 dac10 m1_28516_697# avdd avss sky130_fd_pr__pfet_g5v0d10v5_KL3SY6
Xinvn1 m1_6581_13017# avss avss dac1 sky130_fd_pr__nfet_g5v0d10v5_UNEQ2N
Xinvp3 dac3 m1_11781_13017# avdd avdd sky130_fd_pr__pfet_g5v0d10v5_KLD8Y6
Xpl11 dac11 m1_31116_697# avdd avss sky130_fd_pr__pfet_g5v0d10v5_KL3SY6
Xinvn2 m1_9181_13017# avss avss dac2 sky130_fd_pr__nfet_g5v0d10v5_UNEQ2N
Xinvp4 dac4 m1_14381_13017# avdd avdd sky130_fd_pr__pfet_g5v0d10v5_KLD8Y6
Xrser0 m1_2516_7097# avss m1_716_4297# sky130_fd_pr__res_xhigh_po_0p35_K8ELGS
Xinvn3 m1_11781_13017# avss avss dac3 sky130_fd_pr__nfet_g5v0d10v5_UNEQ2N
Xinvp5 dac5 m1_16981_13017# avdd avdd sky130_fd_pr__pfet_g5v0d10v5_KLD8Y6
Xrser1 m1_5116_7097# avss m1_2516_7097# sky130_fd_pr__res_xhigh_po_0p35_K8ELGS
Xinvn4 m1_14381_13017# avss avss dac4 sky130_fd_pr__nfet_g5v0d10v5_UNEQ2N
Xinvp6 dac6 m1_19581_13017# avdd avdd sky130_fd_pr__pfet_g5v0d10v5_KLD8Y6
Xrser2 m1_7716_7097# avss m1_5116_7097# sky130_fd_pr__res_xhigh_po_0p35_K8ELGS
Xinvn5 m1_16981_13017# avss avss dac5 sky130_fd_pr__nfet_g5v0d10v5_UNEQ2N
Xinvp7 dac7 m1_22181_13017# avdd avdd sky130_fd_pr__pfet_g5v0d10v5_KLD8Y6
Xrser3 m1_10316_7097# avss m1_7716_7097# sky130_fd_pr__res_xhigh_po_0p35_K8ELGS
Xinvn6 m1_19581_13017# avss avss dac6 sky130_fd_pr__nfet_g5v0d10v5_UNEQ2N
Xinvp8 dac8 m1_24781_13017# avdd avdd sky130_fd_pr__pfet_g5v0d10v5_KLD8Y6
Xrser4 m1_12916_7097# avss m1_10316_7097# sky130_fd_pr__res_xhigh_po_0p35_K8ELGS
Xpl0 dac0 m1_2516_697# avdd avss sky130_fd_pr__pfet_g5v0d10v5_KL3SY6
Xinvn7 m1_22181_13017# avss avss dac7 sky130_fd_pr__nfet_g5v0d10v5_UNEQ2N
Xinvp9 dac9 m1_27381_13017# avdd avdd sky130_fd_pr__pfet_g5v0d10v5_KLD8Y6
Xph10 m1_29981_13017# m1_28516_697# avdd vref sky130_fd_pr__pfet_g5v0d10v5_KL3SY6
Xrser5 m1_15516_7097# avss m1_12916_7097# sky130_fd_pr__res_xhigh_po_0p35_K8ELGS
Xpl1 dac1 m1_5116_697# avdd avss sky130_fd_pr__pfet_g5v0d10v5_KL3SY6
Xinvn8 m1_24781_13017# avss avss dac8 sky130_fd_pr__nfet_g5v0d10v5_UNEQ2N
Xph11 m1_32581_13017# m1_31116_697# avdd vref sky130_fd_pr__pfet_g5v0d10v5_KL3SY6
Xrser6 m1_18116_7097# avss m1_15516_7097# sky130_fd_pr__res_xhigh_po_0p35_K8ELGS
Xrsh10 m1_25916_7097# avss m1_28516_697# sky130_fd_pr__res_xhigh_po_0p35_N7NBSG
Xpl2 dac2 m1_7716_697# avdd avss sky130_fd_pr__pfet_g5v0d10v5_KL3SY6
Xinvn9 m1_27381_13017# avss avss dac9 sky130_fd_pr__nfet_g5v0d10v5_UNEQ2N
Xrsh11 m1_28516_7097# avss m1_31116_697# sky130_fd_pr__res_xhigh_po_0p35_N7NBSG
Xrser7 m1_20716_7097# avss m1_18116_7097# sky130_fd_pr__res_xhigh_po_0p35_K8ELGS
Xpl3 dac3 m1_10316_697# avdd avss sky130_fd_pr__pfet_g5v0d10v5_KL3SY6
Xnl0 m1_2516_697# avss avss m1_3981_13017# sky130_fd_pr__nfet_g5v0d10v5_WSEQJ8
Xrser8 m1_23316_7097# avss m1_20716_7097# sky130_fd_pr__res_xhigh_po_0p35_K8ELGS
Xph0 m1_3981_13017# m1_2516_697# avdd vref sky130_fd_pr__pfet_g5v0d10v5_KL3SY6
Xnl1 m1_5116_697# avss avss m1_6581_13017# sky130_fd_pr__nfet_g5v0d10v5_WSEQJ8
Xpl4 dac4 m1_12916_697# avdd avss sky130_fd_pr__pfet_g5v0d10v5_KL3SY6
Xrser9 m1_25916_7097# avss m1_23316_7097# sky130_fd_pr__res_xhigh_po_0p35_K8ELGS
Xph1 m1_6581_13017# m1_5116_697# avdd vref sky130_fd_pr__pfet_g5v0d10v5_KL3SY6
Xpl5 dac5 m1_15516_697# avdd avss sky130_fd_pr__pfet_g5v0d10v5_KL3SY6
Xnl2 m1_7716_697# avss avss m1_9181_13017# sky130_fd_pr__nfet_g5v0d10v5_WSEQJ8
Xnl10 m1_28516_697# avss avss m1_29981_13017# sky130_fd_pr__nfet_g5v0d10v5_WSEQJ8
Xph2 m1_9181_13017# m1_7716_697# avdd vref sky130_fd_pr__pfet_g5v0d10v5_KL3SY6
Xnl3 m1_10316_697# avss avss m1_11781_13017# sky130_fd_pr__nfet_g5v0d10v5_WSEQJ8
Xpl6 dac6 m1_18116_697# avdd avss sky130_fd_pr__pfet_g5v0d10v5_KL3SY6
Xrsh0 m1_716_4297# avss m1_2516_697# sky130_fd_pr__res_xhigh_po_0p35_N7NBSG
Xph3 m1_11781_13017# m1_10316_697# avdd vref sky130_fd_pr__pfet_g5v0d10v5_KL3SY6
Xpl7 dac7 m1_20716_697# avdd avss sky130_fd_pr__pfet_g5v0d10v5_KL3SY6
Xnl11 m1_31116_697# avss avss m1_32581_13017# sky130_fd_pr__nfet_g5v0d10v5_WSEQJ8
Xnh0 m1_2516_697# avss vref dac0 sky130_fd_pr__nfet_g5v0d10v5_WSEQJ8
Xnl4 m1_12916_697# avss avss m1_14381_13017# sky130_fd_pr__nfet_g5v0d10v5_WSEQJ8
Xrsh1 m1_2516_7097# avss m1_5116_697# sky130_fd_pr__res_xhigh_po_0p35_N7NBSG
Xph4 m1_14381_13017# m1_12916_697# avdd vref sky130_fd_pr__pfet_g5v0d10v5_KL3SY6
Xpl8 dac8 m1_23316_697# avdd avss sky130_fd_pr__pfet_g5v0d10v5_KL3SY6
Xnh1 m1_5116_697# avss vref dac1 sky130_fd_pr__nfet_g5v0d10v5_WSEQJ8
Xnl5 m1_15516_697# avss avss m1_16981_13017# sky130_fd_pr__nfet_g5v0d10v5_WSEQJ8
Xrsh2 m1_5116_7097# avss m1_7716_697# sky130_fd_pr__res_xhigh_po_0p35_N7NBSG
Xph5 m1_16981_13017# m1_15516_697# avdd vref sky130_fd_pr__pfet_g5v0d10v5_KL3SY6
Xpl9 dac9 m1_25916_697# avdd avss sky130_fd_pr__pfet_g5v0d10v5_KL3SY6
Xnh2 m1_7716_697# avss vref dac2 sky130_fd_pr__nfet_g5v0d10v5_WSEQJ8
Xnl6 m1_18116_697# avss avss m1_19581_13017# sky130_fd_pr__nfet_g5v0d10v5_WSEQJ8
Xrsh3 m1_7716_7097# avss m1_10316_697# sky130_fd_pr__res_xhigh_po_0p35_N7NBSG
Xph6 m1_19581_13017# m1_18116_697# avdd vref sky130_fd_pr__pfet_g5v0d10v5_KL3SY6
Xnh3 m1_10316_697# avss vref dac3 sky130_fd_pr__nfet_g5v0d10v5_WSEQJ8
Xnl7 m1_20716_697# avss avss m1_22181_13017# sky130_fd_pr__nfet_g5v0d10v5_WSEQJ8
Xrsh4 m1_10316_7097# avss m1_12916_697# sky130_fd_pr__res_xhigh_po_0p35_N7NBSG
Xph7 m1_22181_13017# m1_20716_697# avdd vref sky130_fd_pr__pfet_g5v0d10v5_KL3SY6
Xnh4 m1_12916_697# avss vref dac4 sky130_fd_pr__nfet_g5v0d10v5_WSEQJ8
Xnl8 m1_23316_697# avss avss m1_24781_13017# sky130_fd_pr__nfet_g5v0d10v5_WSEQJ8
Xrsh5 m1_12916_7097# avss m1_15516_697# sky130_fd_pr__res_xhigh_po_0p35_N7NBSG
Xph8 m1_24781_13017# m1_23316_697# avdd vref sky130_fd_pr__pfet_g5v0d10v5_KL3SY6
Xnh5 m1_15516_697# avss vref dac5 sky130_fd_pr__nfet_g5v0d10v5_WSEQJ8
Xnl9 m1_25916_697# avss avss m1_27381_13017# sky130_fd_pr__nfet_g5v0d10v5_WSEQJ8
Xnh10 m1_28516_697# avss vref dac10 sky130_fd_pr__nfet_g5v0d10v5_WSEQJ8
Xrsh6 m1_15516_7097# avss m1_18116_697# sky130_fd_pr__res_xhigh_po_0p35_N7NBSG
Xnh6 m1_18116_697# avss vref dac6 sky130_fd_pr__nfet_g5v0d10v5_WSEQJ8
Xph9 m1_27381_13017# m1_25916_697# avdd vref sky130_fd_pr__pfet_g5v0d10v5_KL3SY6
Xnh11 m1_31116_697# avss vref dac11 sky130_fd_pr__nfet_g5v0d10v5_WSEQJ8
Xrsh7 m1_18116_7097# avss m1_20716_697# sky130_fd_pr__res_xhigh_po_0p35_N7NBSG
Xrser10 m1_28516_7097# avss m1_25916_7097# sky130_fd_pr__res_xhigh_po_0p35_K8ELGS
Xnh7 m1_20716_697# avss vref dac7 sky130_fd_pr__nfet_g5v0d10v5_WSEQJ8
Xrser11 vout avss m1_28516_7097# sky130_fd_pr__res_xhigh_po_0p35_K8ELGS
Xrsh8 m1_20716_7097# avss m1_23316_697# sky130_fd_pr__res_xhigh_po_0p35_N7NBSG
Xnh8 m1_23316_697# avss vref dac8 sky130_fd_pr__nfet_g5v0d10v5_WSEQJ8
Xrsh9 m1_23316_7097# avss m1_25916_697# sky130_fd_pr__res_xhigh_po_0p35_N7NBSG
Xnh9 m1_25916_697# avss vref dac9 sky130_fd_pr__nfet_g5v0d10v5_WSEQJ8
Xxt m1_716_4297# avss avss sky130_fd_pr__res_xhigh_po_0p35_N7NBSG
Xinvp10 dac10 m1_29981_13017# avdd avdd sky130_fd_pr__pfet_g5v0d10v5_KLD8Y6
Xinvp11 dac11 m1_32581_13017# avdd avdd sky130_fd_pr__pfet_g5v0d10v5_KLD8Y6
.ends

